US07534788B2
Step 1: (5-Chloro-2,4-Dimethoxy-phenyl)-(4-fluoro-phenyl)-methanone
Chloro-2,4-Dimethoxy-benzene (5.00 g, 29.0 mmol) and AlCl3 (4.63 g, 1.2 eq.) were dissolved in 290 ml of CH2Cl2 and cooled down to 0° C. 4-Fluoro-benzoyl chloride (3.47 mL, 1.0 eq.) was slowly added via dropping funnel and the mixture allowed to react for 2 additional h at ambient temperature. Pouring onto crashed ice, twofold extraction with AcOEt, washing with brine, drying over sodium sulfate, and evaporation of the solvents left 8.41 g of the title compound used crude for the next step.

reactant | Chloro-2,4-Dimethoxy-benzene | 29.0 mmol, 5.00 g | ClC1=C(C=C(C=C1)OC)OC | C8H9ClO2
reactant | AlCl3 | 4.63 g, 1.2 eq. | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-Fluoro-benzoyl chloride | 3.47 mL, 1.0 eq. | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | CH2Cl2 | 290 ml | C(Cl)Cl | CH2Cl2
product | (5-Chloro-2,4-Dimethoxy-phenyl)-(4-fluoro-phenyl)-methanone | ClC=1C(=CC(=C(C1)C(=O)C1=CC=C(C=C1)F)OC)OC | C15H12ClFO3
